US07202040B2
After 1,2-dioleoyl-sn-glycero-3-phospho-L-serine sodium salt (SIGMA, P1060) (85 mg) was dissolved in distilled water (25 ml), 200 mM Tris-HCl buffer (pH 8.0) (1.5 ml) and 100 mM potassium chloride (1.5 ml) were added to the solution, and phospholipase A2 (0.3 ml) (10 mg/ml, 5 mM sodium acetate buffer (pH 5.0)) was further added thereto. The mixture was reacted at room temperature for 20 hours, and the pH was rendered 2 to 3 with 5M hydrochloric acid to terminate the reaction. After the reaction solution was concentrated to dryness, the residue was dissolved in a chloroform-methanol solvent mixture and the solution was adsorbed on silica gel column chromatography. Elution was performed with a chloroform-methanol solvent mixture to give 1-oleoyl-sn-glycero-3-phospho-L-serine.

reactant | 1,2-dioleoyl-sn-glycero-3-phospho-L-serine sodium salt | 85 mg | [Na+].C(CCCCCCC\C=C/CCCCCCCC)(=O)OC[C@@H](OC(CCCCCCC\C=C/CCCCCCCC)=O)COP(=O)(O)OC[C@H](N)C(=O)[O-]
reactant | Tris-HCl | 200 mM, 1.5 ml, pH 8.0 | C(C(CO)(CO)N)O.Cl
reactant | potassium chloride | 100 mM, 1.5 ml | [Cl-].[K+]
reactant | hydrochloric acid | 5M | Cl | ClH
solvent | water | 25 ml | O | H2O
product | 1-oleoyl-sn-glycero-3-phospho-L-serine | C(CCCCCCC\C=C/CCCCCCCC)(=O)OC[C@@H](O)COP(=O)(O)OC[C@H](N)C(=O)O | C24H46NO9P
